US05990116
V) 5-(2,5-Dimethoxybenzyloxy)-2-formylaminobenzamide
A solution of 140 mg of 2-formylamino-5-hydroxybenzamide in 15 ml of dry dimethylformamide is treated subsequently with 160 mg of potassium carbonate and 180 mg of 2,5-dimethoxybenzylbromide. The mixture is stirred at room temperature for 4 hours, and then the solvent is distilled off in vacuo. The residue is partitioned between water and ethyl acetate, and the separated organic layer is dried over magnesium sulfate and evaporated in vacuo. Purification of the crude product thus obtained by silica gel chromatography (ethyl acetate) gives the title compound as colourless crystals. mp: 135-138°.

reactant | 2-formylamino-5-hydroxybenzamide | 140 mg | C(=O)NC1=C(C(=O)N)C=C(C=C1)O | C8H8N2O3
reactant | potassium carbonate | 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dimethoxybenzylbromide | 180 mg | COC1=C(CBr)C=C(C=C1)OC | C9H11BrO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-(2,5-Dimethoxybenzyloxy)-2-formylaminobenzamide | COC1=C(COC=2C=CC(=C(C(=O)N)C2)NC=O)C=C(C=C1)OC | C17H18N2O5
